US07105507B2
(S)-α-Methyl-N-(4-oxo-1-phenylcyclohexyl)-3,5-bis(trifluoromethyl)benzeneacetamide
Bis(2-oxo-3-oxazolidinyl)phosphinic chloride (672 mg, 2.64 mmol) was added to a solution of (S)-α-methyl-3,5-bis(trifluoromethyl)benzeneacetic acid (Description 40, 500 mg, 1.76 mmol) and pyridine (284 μL, 3.52 mmol) in dichloromethane (15 mL) and the mixture was stirred at room temperature for 5 minutes. 4-Oxo-1-phenylcyclohexylamine hydrochloride (Description 18, 500 mg, 2.64 mmol) was added and the mixture was stirred at room temperature for 48 hours. The mixture was diluted with dichloromethane and washed with saturated aqueous sodium carbonate. The organic layer was dried (MgSO4) and the solvent was evaporated under reduced pressure. The residue was purified by flash column chromatography on silica gel, eluting with isohexane:EtOAc (65:35). The residue was crystallised twice from propan-2-ol/water (50:50, 20 mL) and the solid was collected and dried in vacuo to give the title compound as a colorless solid (200 mg, 37%). 1H NMR (400 MHz, CDCl3) δ 7.80 (1H, s), 7.72 (2H, s), 7.29 (5H m), 5.71 (1H, s), 3.70 (1H, q, J 7.0 Hz), 2.81 (1H, m), 2.64 (1H, m), 2.47–2.04 (5H, m), 1.60 (1H, m), and 1.52 (3H, d, J 7.0 Hz). e.e. [Determined by chiral HPLC (Chiralcel OD-H 250×4.6 mm i.d.; isohexane/EtOH (96:4); 1 mL/min; 210 nm]>99%.

reactant | Bis(2-oxo-3-oxazolidinyl)phosphinic chloride | 2.64 mmol, 672 mg | O=C1OCCN1P(=O)(N1C(OCC1)=O)Cl | C6H8ClN2O5P
reactant | (S)-α-methyl-3,5-bis(trifluoromethyl)benzeneacetic acid | 1.76 mmol, 500 mg | C[C@H](C(=O)O)C1=CC(=CC(=C1)C(F)(F)F)C(F)(F)F | C11H8F6O2
reactant | pyridine | 3.52 mmol, 284 μL | N1=CC=CC=C1 | C5H5N
reactant | 4-Oxo-1-phenylcyclohexylamine hydrochloride | 2.64 mmol, 500 mg | Cl.O=C1CCC(CC1)(C1=CC=CC=C1)N
solvent | dichloromethane | 15 mL | ClCCl | CH2Cl2
product | (S)-α-Methyl-N-(4-oxo-1-phenylcyclohexyl)-3,5-bis(trifluoromethyl)benzeneacetamide | 200 mg, 37% | C[C@H](C(=O)NC1(CCC(CC1)=O)C1=CC=CC=C1)C1=CC(=CC(=C1)C(F)(F)F)C(F)(F)F | C23H21F6NO2
